US08048884B2
4-Fluoro-N-{2-[3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-N-methyl-benzenesulfonamide hydrochloride
Dissolve 4-fluoro-benzenesulfonyl chloride (0.095 g, 0.49 mmol, 1.1 eq.) in dichloromethane (4 mL). Add {2-[3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine (0.150 g, 0.440 mmol, 1 eq.). Add morpholine, polymer-bound (0.201 g, 0.490 mmol, 1.1 eq.). Stir at room temperature for 2 hr. Purify by SCX chromatography (column washed with methanol and extracted with 7N NH3/MeOH) to afford the free base of the title compound (0.220 g, 100% yield). MS (loop): m/z=500.0 [M+H].

reactant | 4-fluoro-benzenesulfonyl chloride | 0.49 mmol, 0.095 g, 1.1 eq. | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | {2-[3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine | 0.440 mmol, 0.150 g, 1 eq. | COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCNC | C19H27N5O
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-Fluoro-N-{2-[3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-N-methyl-benzenesulfonamide hydrochloride | 0.220 g, 100% yield | Cl.FC1=CC=C(C=C1)S(=O)(=O)N(C)CCN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)COC | InChI=1S/C25H30FN5O3S.ClH/c1-29(35(32,33)23-9-7-22(26)8-10-23)13-14-30-15-17-31(18-16-30)25-24(27-11-12-28-25)21-5-3-20(4-6-21)19-34-2;/h3-12H,13-19H2,1-2H3;1H
